US04308378
Step E. Preparation of (E)-7-(2,4-Dichloro-6-phenylmethoxyphenyl)-3,5-dihydroxy-6-heptenoic acid
A solution of methyl (E)-7-(2,4-dichloro-6-phenylmethoxyphenyl)-3,5-dihydroxy-6-heptenoate (34.8 g, 81.8 mmole), 1 N sodium hydroxide (82 ml, 82 mmole) and ethanol (200 ml) was stirred at 25° C. for 15 min. The reaction solution was acidified with 6 N hydrochloric acid, diluted with water (400 ml) and extracted with ether (3×200 ml). The combined organic extracts were washed with brine (3×100 ml), dried over magnesium sulfate and filtered. The filtrate was evaporated in vacuo, leaving the title compound as an orange oil (33.3 g, 99%); pmr (CDCl3) δ2.47 (2H, d), 4.30 (2H, br m), 4.98 (2H, s), 7.30 (5H, s).

reactant | methyl (E)-7-(2,4-dichloro-6-phenylmethoxyphenyl)-3,5-dihydroxy-6-heptenoate | 81.8 mmole, 34.8 g | ClC1=C(C(=CC(=C1)Cl)OCC1=CC=CC=C1)/C=C/C(CC(CC(=O)OC)O)O | C21H22Cl2O5
reactant | sodium hydroxide | 82 mmole, 1 N, 82 ml | [OH-].[Na+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | 400 ml | O | H2O
product | (E)-7-(2,4-Dichloro-6-phenylmethoxyphenyl)-3,5-dihydroxy-6-heptenoic acid | 33.3 g, 99% | ClC1=C(C(=CC(=C1)Cl)OCC1=CC=CC=C1)/C=C/C(CC(CC(=O)O)O)O | C20H20Cl2O5
